US06528525B1
(d) Ethyl 2-(4-fluorophenoxy)-3-[4-(2-hydroxyethoxy)phenyl]propionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-(4-fluorophenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]-phenyl]propionate (3.75 g), which is the product of Reference example 37(c), and p-toluensulfonic acid monohydrate (2.15 g) and the reaction mixture was treated to afford the desired compound (2.68 g) as a colorless oil.

reactant | ethyl 2-(4-fluorophenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]-phenyl]propionate | 3.75 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCOC2OCCCC2)C=C1 | C24H29FO6
reactant | p-toluensulfonic acid monohydrate | 2.15 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-(4-fluorophenoxy)-3-[4-(2-hydroxyethoxy)phenyl]propionate | 2.68 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCO)C=C1 | C19H21FO5
